US07812022B2
To a suspension of [2-(3-aminophenyl)-3-(4-pyrimidinyl)pyrazolo[1,5-a]pyridin-5-yl]methanol (600 mg, 1.90 mmol) in DCM (60 mL), benzoyl chloride (0.440 mL, 3.79 mmol) was added dropwise at rt. The mixture was stirred for overnight. The reaction mixture was quenched to add MeOH, then the solvent was evaporated under reduced pressure. The residue was recrystallized from DCM (excess) and small amount of acetone. The title compound was obtained as yellow solid (820 mg).

reactant | [2-(3-aminophenyl)-3-(4-pyrimidinyl)pyrazolo[1,5-a]pyridin-5-yl]methanol | 1.90 mmol, 600 mg | NC=1C=C(C=CC1)C1=NN2C(C=C(C=C2)CO)=C1C1=NC=NC=C1 | C18H15N5O
reactant | benzoyl chloride | 3.79 mmol, 0.440 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | N-{3-[5-(Hydroxymethyl)-3-(4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}benzamide | OCC1=CC=2N(C=C1)N=C(C2C2=NC=NC=C2)C=2C=C(C=CC2)NC(C2=CC=CC=C2)=O | C25H19N5O2
